US07253315B2
A 500 ml PFA vessel equipped with a stirrer was used. Water (250 g, 13.9 mol) was temperature conditioned to 15° C. within the vessel, following which C7F15COF (125 g, 0.3 mol) having a purity of 99.9 wt % was added dropwise under stirring. The resulting mixture was a solid-liquid dispersed system composed of an aqueous phase containing the hydrogen fluoride that formed in hydrolysis, and a solid phase of the C7F15COOH that formed in hydrolysis.

reactant | Water | 13.9 mol, 250 g | O | H2O
reactant | C7F15COF | 0.3 mol, 125 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)C(=O)F | C8F16O
reactant | hydrogen fluoride | F | FH
product | C7F15COOH | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)C(=O)O | C8HF15O2
